US03943176
3-Hydroxy-5,5-dimethyl- 2-(p-methylbenzylsulfinyl)-2-cyclohexen-1-one
A mixture of 3-hydroxy-5,5-dimethyl-2-(p-methylbenzylthio)-2-cyclohexen-1-one (10 g., 0.036 mole), 30 percent hydrogen peroxide (4.11 g., 0.0362 mole), and 100 ml. of glacial acetic acid was allowed to stand at room temperature for 24 hours. The solution was poured into ice water, and the resulting pink solid was filtered and dried to give pure product (9.9 g., m.p. 89°-90.5°C.).

reactant | 3-hydroxy-5,5-dimethyl-2-(p-methylbenzylthio)-2-cyclohexen-1-one | 0.036 mole, 10 g | OC1=C(C(CC(C1)(C)C)=O)SCC1=CC=C(C=C1)C | C16H20O2S
reactant | hydrogen peroxide | 0.0362 mole, 4.11 g | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Hydroxy-5,5-dimethyl- 2-(p-methylbenzylsulfinyl)-2-cyclohexen-1-one | OC1=C(C(CC(C1)(C)C)=O)S(=O)CC1=CC=C(C=C1)C | C16H20O3S
